US05665718
A suspension of 7.07 g (21.3 mmol) of (S)-8-chloro-9-oxo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamidoxime in 50 ml of N,N-dimethylformamide was treated with 4.0 g (23.4 mmol) of chloroacetic anhydride. The yellow solution obtained was stirred at 105° for 2 hrs. and then completely freed from the solvents. The oily product was chromatographed over silica gel with methylene chloride/methanol 9:1 as the eluent and the oily product obtained was recrystallized from ethyl acetate/ether. The mother liquor was concentrated, the residue was again chromatographed over silica gel with acetonitrile as the eluent and the additional portion of product obtained was recrystallized from ethyl acetate/ether. There were obtained a total of 6.27 g (75%) of (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one as white crystals; m.p. 184°-186° and [α]D20 =+36.1° (MeOH, c=1%).

reactant | (S)-8-chloro-9-oxo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamidoxime | 21.3 mmol, 7.07 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(N)=NO)CCC1)=O | C15H14ClN5O2
reactant | chloroacetic anhydride | 23.4 mmol, 4.0 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 6.27 g, 75% | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CCl)CCC1)=O | C17H13Cl2N5O2
